US08871797B2
A solution of 3-bromo-4-(trifluoromethoxy)aniline (3.84 g, 15 mmol) in dioxane (15 mL) was treated with di-tert-butyl-dicarbonate (4.91 g, 22.5 mmol) then the reaction mixture heated at 80° C. overnight. The solvent was removed under reduced pressure to give an oily residue that was triturated with hexanes. The precipitate was collected by filtration to give (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester as a white solid in 61.0% yield. 1H NMR (400 MHz, DMSO-d6) δ: 9.78 (bs, 1H), 7.87 (s, 1H), 7.54-7.43 (m, 2H), 1.51 (s, 9H).

reactant | 3-bromo-4-(trifluoromethoxy)aniline | 15 mmol, 3.84 g | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
reactant | di-tert-butyl-dicarbonate | 22.5 mmol, 4.91 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 61.0% yield | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC(F)(F)F)Br)=O | C12H13BrF3NO3
